* C:\Users\Robin\Documents\MicrowaveLocalOscillator\10MhzDiplexer.asc
C1 N004 N003 27p
C2 0 N009 390p
L1 N009 0 82n
V1 N003 N011 SINE(0 .13 10000k)
L2 N005 N004 8200n
R3 N011 0 50R
R2 N005 0 50R
R4 N009 N003 50R
R5 N005 N009 50R
C3 N004 N003 3.9p
C4 0 N009 2700p
C5 N006 N005 10n
V2 N001 0 5v
R1 N010 0 10
R6 N001 N002 220
R10 N001 N007 13k
R11 N007 0 1500
A1 N007 0 0 0 0 0 N008 0 SCHMITT
R7 N001 N006 1500
R8 N006 0 330
Q1 N002 N006 N010 0 NPN
C6 N007 N002 10n
C7 N010 0 10n
.model NPN NPN
.model PNP PNP
.lib C:\Users\Robin\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 1u 0
.backanno
.end
